data/pmechdb/original/mc_train_fold0/raw/train.txt
CCC1=NC([C:20](=[O:21])O1)(CC2CCCCC2)C(=O)CC.CCC(=O)[O-:10].C1=CC=[NH+]C=C1>>CCC1=NC([C:20](O1)([O-:21])[O:10]C(=O)CC)(CC2CCCCC2)C(=O)CC.C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][O:21]C.C1CCC(C(C1)CCCN)[O-:10]>>[H:20][O:10]C1CCCCC1CCCN.C[O-:21] 10=20;20,21=21
CCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[N+:11](C)(C1=CC(=CC=C1)Br)[Fe-:10](Br)(Br)Br>>C[N:11](C)C1=CC(=CC=C1)Br.[Fe:10](Br)(Br)Br 10,11=11
C[C:11](=[C:10]([CH2:20][N+:21]12CCN(CC1)CC2)C(C3=C(C(=CC=C3)OC)O)[O-])[O-:12].C1CN2CC[NH+]1CC2>>C[C:11](=[O:12])[C:10](=[CH2:20])C(C1=C(C(=CC=C1)OC)O)[O-].C1CN2CC[NH+]1CC2.C1C[N:21]2CCN1CC2 10,11=10,20;12=11;20,21=21
CCOC(=O)[N+:21](=[CH:20]C1=CC=CC=C1)CC2=CC=CC=C2.C[Si](C)(C)C[C:11]#[CH:10].CCO[Al-](CC)(Cl)Cl>>CCOC(=O)[N:21](CC1=CC=CC=C1)[CH:20]([CH:10]=[C+:11]C[Si](C)(C)C)C2=CC=CC=C2.CCO[Al-](CC)(Cl)Cl 10,11=10,20;20,21=21
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[C:20](CCCCC)C(C)C)Cl>>[H:10][C:20](CCCCC)(C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
C[Si](C)(C)OCCO[Si-:10](C)(C)(C)[Cl:11]>>C[Si:10](C)(C)OCCO[Si](C)(C)C.[Cl-:11] 10,11=11
C[CH:20]=[N+:21](C)C.[Br-:10]>>C[CH:20]([N:21](C)C)[Br:10] 10=20;20,21=21
[Li:11][C:10]1=CC=CC=C1.CN(C)C(=O)CC[C:20](=[O:21])C1=CC=CC=C1>>CN(C)C(=O)CC[C:20](C1=CC=CC=C1)([C:10]2=CC=CC=C2)[O-:21].[Li+:11] 10,11=10,20;20,21=21
CC[OH:10].COC(=O)NN(C(=O)OC)[P+:20](C)(C)C>>CC[OH+:10][P:20](C)(C)(C)N(C(=O)OC)NC(=O)OC 10=20,
CC1(CC[C:20](CC1)([OH:10])[OH+:21]CCO)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O>>C(CO)[OH:21].CC1(CC[C:20](=[OH+:10])CC1)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O 10=20;20,21=21
CC[C:10]1([OH+:11]CCO1)C2=CC=CC=C2>>CC[C+:10](C1=CC=CC=C1)OCC[OH:11] 10,11=11
[H:20][O:21]C(=O)C1CCC(=O)CC1.CCOC(=O)N[N-:10]C(=O)OCC.CC(C)(C)CO[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C1CC(=O)CCC1C(=O)[O-:21].CC(C)(C)CO[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 10=20;20,21=21
[H:20][Br:21].CC1CCC([CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCC([C+:11]1C2=CC=CC=C2)C)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21
[H:20][O+:21](B(OCCCC)OC(C1=CC=CC=C1)C(C)C(=O)N2C(COC2=O)CC3=CC=CC=C3)CCCC.[OH-:10].OO>>B(OCCCC)([O:21]CCCC)OC(C1=CC=CC=C1)C(C)C(=O)N2C(COC2=O)CC3=CC=CC=C3.[H:20][OH:10].OO 10=20;20,21=21
CC(=O)OCCOC1=CC(=C(C=C1)NC(=O)C[NH:10][CH:20](CC(C)(C)C)[OH2+:21])OC.CCN(CC)CC.C(=O)(C(F)(F)F)[O-]>>CC(=O)OCCOC1=CC(=C(C=C1)NC(=O)C[NH+:10]=[CH:20]CC(C)(C)C)OC.[OH2:21].CCN(CC)CC.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
CC(C)OC1=C2C=CC(=C(C2=CC(=C1)O[CH:20]=[OH+:21])OC)Br.C1=CC(=CC(=C1)Cl)C(=O)[O-:10]>>CC(C)OC1=C2C=CC(=C(C2=CC(=C1)O[CH:20]([OH:21])[O:10]C(=O)C3=CC(=CC=C3)Cl)OC)Br 10=20;20,21=21
[H:20][CH:21]1C(=O)CCC2([C+:22]1CCC3C2CCC4(C3CCC4(C(=O)C)OC(=O)C)C)C.CC(C)[O-:10].CC(C)O[Al](OC1CCCCC1)OC(C)C>>[H:20][O:10]C(C)C.CC(=O)C1(CCC2C1(CCC3C2CC[C:22]4=[CH:21]C(=O)CCC34C)C)OC(=O)C.CC(C)O[Al](OC1CCCCC1)OC(C)C 10=20;20,21=21,22
C[C:20]([CH:10]=[C:11](C1=CC(=CC=C1)Br)[O-:12])(C2=CC(=CC=C2)Br)[OH:21]>>C[C:20](=[CH:10][C:11](=[O:12])C1=CC(=CC=C1)Br)C2=CC(=CC=C2)Br.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][NH2+:21]C(C)(CCC(=O)CCC1=CC=CC=C1)[O-].[NH3:10].CO>>[H:20][NH3+:10].CC(CCC(=O)CCC1=CC=CC=C1)([NH2:21])[O-].CO 10=20;20,21=21
[H:20][C:21]1=[N+](N=C2N1CCC2)C3=C(C(=C(C(=C3F)F)F)F)F.CC[N:10](CC)CC.[B-](F)(F)(F)F.CCOC(=O)C=O.C=C(CC1(C=CC(=O)C=C1)CCCC=O)Br.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=C(C=CC=C3)F>>[H:20][N+:10](CC)(CC)CC.C1CC2=N[N+](=[C-:21]N2C1)C3=C(C(=C(C(=C3F)F)F)F)F.[B-](F)(F)(F)F.CCOC(=O)C=O.C=C(CC1(C=CC(=O)C=C1)CCCC=O)Br.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=C(C=CC=C3)F 10=20;20,21=21
C[P:10](C)C.C[S:20][S:21]C>>C[P+:10](C)(C)[S:20]C.C[S-:21] 10=20;20,21=21
C[C+](CC(C1=CC=CC=C1)OC)C[Si:20](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:10].CO[Si](C)(C)C>>C[C+](CC(C1=CC=CC=C1)OC)C[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F.CO[Si](C)(C)C 10=20,
C[NH:10]N.COC1=CC=C(C=C1)[CH2:20][Br:21]>>C[NH+:10]([CH2:20]C1=CC=C(C=C1)OC)N.[Br-:21] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CCCCC)CC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCCCC)CC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[B-:10]([OH+:11]C(CC(=C)C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br)(F)(F)F.CC[O+](CC)[Si](C)(C)C.[OH-]>>[B:10](F)(F)F.CC(COCC1=CC=C(C=C1)OC)C(=C)CC(C2C(O2)CC(=C)Br)[OH:11].CC[O+](CC)[Si](C)(C)C.[OH-] 10,11=11
C[N:21](C=O)[Br:20].C[Si](C)(C)C[C:11]#[CH:10]>>C[N-:21]C=O.C[Si](C)(C)C[C+:11]=[CH:10][Br:20] 10,11=10,20;20,21=21
C[P+](C)(C)[CH-:10][CH2:20][OH+:21][Na]>>C[P+](C)(C)[CH:10]=[CH2:20].[OH:21][Na] 10=20;20,21=21
[B-]([O+:21]1CCC[O:10][CH:20]1C)(F)(F)F>>[B-]([O:21]CCC[O+:10]=[CH:20]C)(F)(F)F 10=20;20,21=21
[H:10][C:11]1(CCCCC1CC(C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCCCC1CC(C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
